US07211572B2
1-(3-Chlorobenzyl)piperidine-2,4-dione (1.2 g) was dissolved in ethanol (25 ml), and methylhydrazine (0.5 ml) was added. The mixture was heated under reflux for 1 hr. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=95:1) to give 1-(3-chlorobenzyl)-4-(methylhydrazono)piperidin-2-one (1.05 g).

reactant | 1-(3-Chlorobenzyl)piperidine-2,4-dione | 1.2 g | ClC=1C=C(CN2C(CC(CC2)=O)=O)C=CC1 | C12H12ClNO2
reactant | methylhydrazine | 0.5 ml | CNN | CH6N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(3-chlorobenzyl)-4-(methylhydrazono)piperidin-2-one | 1.05 g | ClC=1C=C(CN2C(CC(CC2)=NNC)=O)C=CC1 | C13H16ClN3O
